US08912188B2
To a solution of 5-fluorobenzo[b]thiophen-2-ylboronic acid (202 mg, 1.03 mmol) in dioxane (6 mL) was added methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (120 mg, 0.41 mmol), K3PO4 (259 mg, 1.23 mmol), Pd(PPh3)4 (24.0 mg, 0.02 mmol) and water (3 drops) with stirring for 0.5 h at 90° C. in an oil bath with an inert atmosphere of nitrogen. The reaction mixture was concentrated under vacuum and then purified by a silica gel column with 1% to 2% ethyl acetate in petroleum ether to afford methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (148 mg, 88%).

reactant | 5-fluorobenzo[b]thiophen-2-ylboronic acid | 1.03 mmol, 202 mg | FC1=CC2=C(SC(=C2)B(O)O)C=C1 | C8H6BFO2S
reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.41 mmol, 120 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | K3PO4 | 1.23 mmol, 259 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 24.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 148 mg, 88% | FC1=CC2=C(SC(=C2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)OC)C=C1 | C22H20FN3O2S
